US04808711
In 50 ml of methylene chloride was suspended 6.12 g (19.4 mmole) of 2-(2-amino-1,3-thiazol-4-yl)-2-carbazoylmethoxyiminoacetic acid tert-butyl ester, and to the suspension was added 20.8 g (102.3 mmole) of N,O-bis(trimethylsilyl)acetamide to form a solution. To the ice-cooled solution was added 5.467 g (21.3 mmole) of 3,4-diacetoxybenzoic acid chloride and the mixture was stirred for 2 hours under ice-cooling. The resulting mixture was poured into 800 ml of ether and to the mixture was added a small amount of methanol while stirring. Resulting precipitates were collected by filtration, washed with ether and then dried to obtain 10.2 g of 2-(2-amino-1,3-thiazol-4-yl)-2-[3-(3,4-diacetoxybenzoyl)carbazoyl]methoxyiminoacetic acid tert-butyl ester hydrochloride. (Yield: 98.2%)

reactant | 2-(2-amino-1,3-thiazol-4-yl)-2-carbazoylmethoxyiminoacetic acid tert-butyl ester | 19.4 mmole, 6.12 g | C(C)(C)(C)OC(C(=NOCC(NN)=O)C=1N=C(SC1)N)=O | C11H17N5O4S
reactant | N,O-bis(trimethylsilyl)acetamide | 102.3 mmole, 20.8 g | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 3,4-diacetoxybenzoic acid chloride | 21.3 mmole, 5.467 g | C(C)(=O)OC=1C=C(C(=O)Cl)C=CC1OC(C)=O | C11H9ClO5
reactant | ether | 800 ml | CCOCC | C4H10O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-(2-amino-1,3-thiazol-4-yl)-2-[3-(3,4-diacetoxybenzoyl)carbazoyl]methoxyiminoacetic acid tert-butyl ester hydrochloride | 10.2 g, Yield: 98.2% | Cl.C(C)(C)(C)OC(C(=NOCC(NNC(C1=CC(=C(C=C1)OC(C)=O)OC(C)=O)=O)=O)C=1N=C(SC1)N)=O | InChI=1S/C22H25N5O9S.ClH/c1-11(28)34-15-7-6-13(8-16(15)35-12(2)29)19(31)26-25-17(30)9-33-27-18(14-10-37-21(23)24-14)20(32)36-22(3,4)5;/h6-8,10H,9H2,1-5H3,(H2,23,24)(H,25,30)(H,26,31);1H
